US05210092
To a stirred solution of 4-(4-methoxycarbonylphenyl)-1H-pyrrole-3-carbonitrile (3.00 g) in N,N-dimethylformamide (25 ml) was added sodium hydride (60% oil dispersion : 559 mg) at ambient temperature and the stirring was continued for half an hour at the same temperature. Iodomethane (1.99 g) was added to the mixture, and was stirred at ambient temperature for two hours. The reaction mixture was poured onto ice water and extracted with ethyl acetate and washed with 7% aqueous hydrochloric acid. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was recrystallized from ethanol to give 4-(4-methoxycarbonylphenyl)-1-methylpyrrole-3-carbonitrile (2.78 g) as pale yellow needles.

reactant | 4-(4-methoxycarbonylphenyl)-1H-pyrrole-3-carbonitrile | 3.00 g | COC(=O)C1=CC=C(C=C1)C=1C(=CNC1)C#N | C13H10N2O2
reactant | sodium hydride | 559 mg | [H-].[Na+]
reactant | Iodomethane | 1.99 g | IC | CH3I
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-(4-methoxycarbonylphenyl)-1-methylpyrrole-3-carbonitrile | 2.78 g | COC(=O)C1=CC=C(C=C1)C=1C(=CN(C1)C)C#N | C14H12N2O2
